US08877760B2
To a suspension of tert-butyl (3R,4R)-4-(5-cyano-6-(p-tolylamino)pyrazin-2-ylamino)tetrahydro-2H-pyran-3-ylcarbamate in DCM (1 mL) was added TFA (1 ml), after completion, the solution was concentrated to give 5-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-3-(p-tolylamino)pyrazine-2-carbonitrile as crude residue.

reactant | tert-butyl (3R,4R)-4-(5-cyano-6-(p-tolylamino)pyrazin-2-ylamino)tetrahydro-2H-pyran-3-ylcarbamate | C(#N)C=1N=CC(=NC1NC1=CC=C(C=C1)C)N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O | C22H28N6O3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-3-(p-tolylamino)pyrazine-2-carbonitrile | N[C@H]1COCC[C@H]1NC=1N=C(C(=NC1)C#N)NC1=CC=C(C=C1)C | C17H20N6O
